US07709500B2
Step 2: (2S)-1-azido-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol
(2R)-Oxiran-2-ylmethyl 3-nitrobenzenesulfonate (21.1 g, 81.3 mmol) in DMF (300 ml) was treated with triethylamine (22.6 ml, 163.0 mmol) followed by 4-(3,4-dichlorophenoxy)-piperidine (20 g, 81.3 mmol). The mixture was stirred overnight at 60° C. Sodium azide (16 g, 243.9 mmol) was added to the mixture and the reaction was stirred for a further 72 h. The solution was carefully concentrated under vacuum and the residue was diluted with water (600 ml), extracted with ethyl acetate (1500 ml). The organic layer was washed twice with water (500 ml), then brine (200 ml) and concentrated under vacuum to afford an oil.

reactant | (2R)-Oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 81.3 mmol, 21.1 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@@H]1OC1 | C9H9NO6S
reactant | triethylamine | 163.0 mmol, 22.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(3,4-dichlorophenoxy)-piperidine | 81.3 mmol, 20 g | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
reactant | Sodium azide | 243.9 mmol, 16 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | (2S)-1-azido-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | N(=[N+]=[N-])C[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H18Cl2N4O2
